US07897597B2
4-Amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol (100 mg, 0.3 mmol), cesium carbonate (488 mg, 1.5 mmol), 4-(chloromethyl)-2-methylthiazole.HCl (110 mg, 0.6 mmol), tetrabutylammonium bromide (96 mg, 0.3 mmol), triethylamine (0.5 ml), and DMF (10 mL) were combined and stirred at ambient temperature overnight. The reaction was concentrated under reduced pressure and dichloromethane was added to the residue. Undissolved solids were removed by filtration. The filtrate was concentrated under reduced pressure and subsequently purified by flash column chromatography on silica gel, eluting with a gradient of 0-5% methanol in dichloromethane. The clean fractions were combined and concentrated under reduced pressure. The resulting solid was recrystallized from acetonitrile to yield 77 mg of 1-[4-amino-2-ethoxymethyl-7-(2-methylthiazol-4-ylmethoxy)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as a white powder, mp 200.0-201.0° C.

reactant | 4-Amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | 0.3 mmol, 100 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)O | C17H22N4O3
reactant | cesium carbonate | 1.5 mmol, 488 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(chloromethyl)-2-methylthiazole | ClCC=1N=C(SC1)C | C5H6ClNS
reactant | HCl | 0.6 mmol, 110 mg | Cl | ClH
catalyst | tetrabutylammonium bromide | 0.3 mmol, 96 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 1-[4-amino-2-ethoxymethyl-7-(2-methylthiazol-4-ylmethoxy)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 77 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)COCC)OCC=2N=C(SC2)C | C22H27N5O3S
